US05164402
A. 7-(1-Acetylamino-3-azabicyclo[3.1.0]hex-3-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
A mixture of 1-acetylamino-3-azabicyclo[3.1.0]hexane (150 mg, 0.70 mmol) and triethylamine (0.48 ml, 3.5 mmol) in acetonitrile (7 ml) was treated with 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (192.1 mg, 0.68 mmol) and heated to 80° for 18 hours. Filtration of the reaction mixture provided the title product as a white solid, mp 275° with decomposition (135.8 mg, 0.35 mmol, 51% yield). 1H NMR, (CDCl3): 8.55 (s, 1H), 8.49 (s, 1H), 7.96 (d, J=13 Hz, 1H), 4.22 (m, 1H), 3.98 (bs, 2H), 3.81 (m, 1H), 3.68 (m, 1H), 1.82 (bs, 4H), 1.12 (m, 5H), 0.78 (m, 1H).

reactant | 1-acetylamino-3-azabicyclo[3.1.0]hexane | 0.70 mmol, 150 mg | C(C)(=O)NC12CNCC2C1 | C7H12N2O
reactant | triethylamine | 3.5 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.68 mmol, 192.1 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | 7-(1-Acetylamino-3-azabicyclo[3.1.0]hex-3-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 51% yield | C(C)(=O)NC12CN(CC2C1)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C19H19FN4O4
